US06265434B1
Step A: 2-Allyl-4,6-difluorophenol
3,5-difluorophenol (3.9 grams, 30 mmol), allyl bromide (3.4 mL, 39 mmol) and K2CO3 (12.4 grams, 90 mmol) were suspended in 75 mL acetone and the mixture was refluxed overnight. The mixture was diluted with water and extracted with EtOAc. The organic was dried over sodium sulfate and concentrated. 5.5 grams of crude allyl-3,5-difluorophenylether. The oil was heated to reflux for 6 h then cooled to room temperature. Flash chromatography (150 g silica, 1011 Hexane/EtOAc) afforded 5.2 grams (100%) of product. 1H NMR (400 MHz, CDCl3). δ 3.4 (d, 2H), 5.1-5.2 (m, 2H), 5.6 (s, 1H), 5.9-6.0 (m, 1H), 6.46.5 (m, 2H).

reactant | 3,5-difluorophenol | 30 mmol, 3.9 grams | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | allyl bromide | 39 mmol, 3.4 mL | C(C=C)Br | C3H5Br
reactant | K2CO3 | 90 mmol, 12.4 grams | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-Allyl-4,6-difluorophenol | 5.2 grams, 100% | C(C=C)C1=C(C(=CC(=C1)F)F)O | C9H8F2O
